US05256673
A solution of 28.4 g of methyl 3-(4-chloro-2-thiabutyl)-indole-5-carboxylate [or 32.8 g of methyl 3-(4-bromo-2-thiabutyl)-indole-5-carboxylate; obtainable by reacting methyl gramine-5-carboxylate with 2-mercaptoethanol to give methyl 3-(4-hydroxy-2-thiabutyl)-indole-5-carboxylate and subsequently reacting the latter with SOCl2 or PBr3 ] and 16 g of 4-phenyl-1,2,3,6-tetrahydropyridine in 100 ml of acetonitrile is stirred for 12 hours at 20° and is worked up in the customary manner to give methyl 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-2-thiabutyl]-indole-5-carboxylate ("P"); hydrochloride, m.p. 202°-203°.

reactant | methyl 3-(4-chloro-2-thiabutyl)-indole-5-carboxylate | 28.4 g | ClCCSCC1=CNC2=CC=C(C=C12)C(=O)OC | C13H14ClNO2S
reactant | methyl 3-(4-bromo-2-thiabutyl)-indole-5-carboxylate | 32.8 g | BrCCSCC1=CNC2=CC=C(C=C12)C(=O)OC | C13H14BrNO2S
reactant | 2-mercaptoethanol | SCCO | C2H6OS
product | methyl 3-(4-hydroxy-2-thiabutyl)-indole-5-carboxylate | OCCSCC1=CNC2=CC=C(C=C12)C(=O)OC | C13H15NO3S
